US03997557
43 g (0.2 mole) of (p-hydroxyphenacyl bromide) are added dropwise during 1/2 hour to a cooled (25° C) solution of 30 g (0.2 mole) of 1-pyrrolidino-1-cyclohexene in dimethylformamide. After 51/2 hours, the solution is diluted with water and extracted with chloroform. The chloroform solution is washed with water, dried over sodium sulfate and concentrated to an oil. Distillation gives a liquid which solidifies to give 2-(p-hydroxyphenacyl) cyclohexanone, m.p. 120°-125° C.

reactant | p-hydroxyphenacyl bromide | 0.2 mole, 43 g | OC1=CC=C(C(CBr)=O)C=C1 | C8H7BrO2
reactant | 1-pyrrolidino-1-cyclohexene | 0.2 mole, 30 g | N1(CCCC1)C1=CCCCC1 | C10H17N
reactant | dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-(p-hydroxyphenacyl) cyclohexanone | OC1=CC=C(C(CC2C(CCCC2)=O)=O)C=C1 | C14H16O3
